US08071581B2
Intermediate 56: 3-Chloro-6-ethyl-pyridazine
A mixture of 3-chloro-6-vinyl-pyridazine (1 g, 7.09 mmol), palladium on carbon (10% wt, 200 mg) in ethyl acetate (14 mL) under a hydrogen atmosphere was stirred vigorously at ambient temperature for 4 hours. The mixture was then filtered through a pad of celite and the filtrate concentrated onto silica gel and purified via flash column chromatography (SiO2, hexane:ethyl acetate 90:10-50:50) to return the title compound as a white solid (627 mg, 63% yield). 1H NMR (CDCl3): δ 1.27 (3H, t), 2.93 (2H, q), 7.72 (1H, d), 7.83 (1H, d). MS m/z=143 (M+H+)+.

reactant | 3-chloro-6-vinyl-pyridazine | 7.09 mmol, 1 g | ClC=1N=NC(=CC1)C=C | C6H5ClN2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 14 mL | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-6-ethyl-pyridazine | 627 mg, 63% yield | ClC=1N=NC(=CC1)CC | C6H7ClN2
